US08067457B2
N-[2-({(3R)-1-(1-(3-chlorophenyl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide (8)
The title compound was synthesized in similar fashion to N-[2-({(3R)-1-[1-(6-methoxypyridin-3-yl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide, whereby 1-(3-chlorophenyl)piperidin-4-one was substituted for 1-(6-methoxypyridin-3-yl)piperidin-4-one, and was isolated as a white solid. 1H-NMR (CDCl3) δ: 1.87-2.10 (m, 5H), 2.37-2.44 (m, 1H), 2.66-2.74 (m, 2H), 2.86-2.95 (m, 2H), 3.03-3.09 (m, 1H), 3.55 (d, J=11.7 Hz, 1H), 3.64-3.76 (m, 3H), 4.06-4.23 (m, 2M), 4.79-4.83 (m, 1H), 6.74-6.78 (m, 1H), 6.83-6.85 (m, 2H), 7.13-7.18 (m, 1H), 7.53-7.57 (m, 1H), 7.66-7.75 (m, 2H), 8.09 (m, J=7.5 Hz, 1H), 8.20 (s, 1H), 8.28 (s, 1H), 9.09 (d, J=7.8 Hz, 1H). MS m/z: 509 (M+1).

reactant | N-[2-({(3R)-1-[1-(6-methoxypyridin-3-yl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide | COC1=CC=C(C=N1)N1CCC(CC1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C25H30F3N5O3
reactant | 1-(3-chlorophenyl)piperidin-4-one | ClC=1C=C(C=CC1)N1CCC(CC1)=O | C11H12ClNO
reactant | 1-(6-methoxypyridin-3-yl)piperidin-4-one | COC1=CC=C(C=N1)N1CCC(CC1)=O | C11H14N2O2
product | N-[2-({(3R)-1-(1-(3-chlorophenyl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide | ClC=1C=C(C=CC1)N1CCC(CC1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C25H28ClF3N4O2
